### ISSUE TITLE
Lean has better metaprogramming notations

### ISSUE THREAD

**Issue by amblafont** [amblafont/coreact-workbench#3]
In rocq I have to write ltac:(susbt_all_in (..)) each time I have equations. In Lean, it is possible to have notation without brackets, like ↷ ..
Claude agrees with me that it is not possible to do the same in rocq. (in fact, it may be possible to implement a rocq plugin that does ?)

Anyway, below are the rocq et Lean files for comparison (check in particular UniqueCompo_rule)
```rocq
Require Import Ltac2.Ltac2.
From Ltac2 Require Import Ltac1CompatNotations.

(* This alias is a workaround of a rocq bug that makes
  ltac:(subst_all_in ..) fail *)
  Definition Sigma {A : Type}(B : A -> Type) := sigT B.

Notation "'Σ' x .. y , p" :=
  (Sigma (fun x => .. (Sigma (fun y => p)) ..))
  (at level 200, x binder, y binder, right associativity).

(* (a, b, c) : Σ (a : A)(b : B), C a b *)
Notation "( x , .. , y , p )" :=
  (existT _ x .. (existT _ y p) ..).

Ltac subst_all1 :=
  repeat (match goal with
     | e : _ = _ /\ _ |- _ =>  destruct e as [e ?]
     | e : ?x = ?y |- _ => subst x; pose (x := y); cbn
    end).

Ltac2 subst_all () := ltac1:(subst_all1).

Ltac2 intros_sigma () := repeat (intros; subst_all ()).

Tactic Notation "subst_all_in"  uconstr(B)  :=
  subst_all1;  exact B.

(* We use ltac2 because in ltac1 it is not be possible
to destructure the list of identifiers. destruct_sigma substitutes the equalities *)

Ltac2 rec destruct_sigma_tac (t : constr) (l : ident list) :=
  match l with
  | [] => ()
  | [x] =>
      assert ($x := $t); subst_all ()
  | x :: q =>
      let h := Fresh.in_goal @destruct in
      destruct $t as [$x $h];
      destruct_sigma_tac (Control.hyp h) q;
      clear $h
  end.

Ltac2 Notation "destruct_sigma"
    t(constr) "as" l(list1(ident)) :=
  destruct_sigma_tac t l.

Generalizable All Variables.
Set Implicit Arguments.

Parameter Vertex : Type.
Parameter Edge : Vertex -> Vertex -> Type.
Parameter Triangle : forall `(x1 : Edge a b) `(x2 : Edge b c) `(o : Edge a c), Type.
Parameter Up : forall `(x1 : Edge a b) `(x2 : Edge b c) `(o : Edge a c), Triangle x1 x2 o -> Type.

Parameter UniqueCompo_rule : forall (a b c : Vertex)(Edge_2 : Edge a b)(Edge_3 : Edge b c)(f g : Edge a c)(fo : Triangle Edge_2 Edge_3 f)
   (go : Triangle Edge_2 Edge_3 g)
   (u1 : Up fo)(u2 : Up go), Σ (eq_f_g : f = g),
   ltac:(subst_all_in (Σ (eq : fo = go), ltac:(subst_all_in (u1 = u2)))).

Print UniqueCompo_rule.


```

```lean
import Lean

open Lean Lean.Elab Lean.Elab.Tactic Lean.Meta

/-!
# Port of `test.v` (Rocq/Ltac2) to Lean 4

This file mirrors the original Rocq source as closely as possible, including
its metaprogramming, not just its final statement:

* `PSigma`/`Σ'` — Rocq's `sigT`/`Σ` dependent sum. Rocq's `sigT` accepts a
  `Prop` as its first component (via cumulativity, `Prop ⊆ Type`); Lean's
  built-in `Sigma` is restricted to `Type`, so we use `PSigma` (Lean's
  `Sort`-polymorphic sigma) together with its existing `Σ'` notation, which is
  the faithful analogue of Rocq's `sigT`/`Σ` here.
* `⟪x, .., y, p⟫` — existential-tuple notation for nested `PSigma.mk`,
  mirroring Rocq's `(x, .., y, p)` notation for nested `existT`. Lean's own
  `(a, b, c)` notation is reserved for `Prod`, so a distinct bracket is used.
* `subst_all1` / `subst_all` / `intros_sigma` — ported as Lean tactics
  operating on the local context/goal, exactly like the Rocq `Ltac`/`Ltac2`
  originals.
* `subst_all_in`, written `↷`, which in Rocq is used *as a term*
  (`ltac:(subst_all_in B)`) to compute a `Type` by substituting an equality
  hypothesis into `B`. Here it is ported as a Lean *term elaborator* with the
  same purpose, declared as a greedy unary prefix operator so it absorbs the
  whole rest of a type expression without parentheses (plus a `tactic`-mode
  version, mirroring Rocq's `Tactic Notation`, which can also be used to close
  ordinary goals).
* `destruct_sigma t as x1 .. xn` — ported using Lean's `obtain` pattern
  matching (which already right-nests through `PSigma`, doing in one step what
  the Rocq `Ltac2 rec` recursion does one projection at a time), followed by
  `subst_all`.
* `Vertex` / `Edge` / `Triangle` / `Up` / `UniqueCompo_rule` — the
  mathematical content, ported with `axiom` (Rocq's `Parameter`), stated with
  the exact same shape as the Rocq original — including the nested
  `subst_all_in` calls inside the statement of `UniqueCompo_rule`.
-/

/-- Existential-tuple notation for `PSigma.mk`, mirroring Rocq's
`(x, .., y, p)` notation for nested `existT`. Lean's own tuple notation
`(a, b, c)` is reserved for `Prod`, so we use `⟪ ⟫` instead. -/
syntax "⟪" term,+ "⟫" : term

macro_rules
  | `(⟪$x⟫) => `($x)
  | `(⟪$x, $xs,*⟫) => `(PSigma.mk $x ⟪$xs,*⟫)

/-! ### `subst_all1` / `subst_all` / `intros_sigma`

Rocq:

Ltac subst_all1 :=
  repeat (match goal with
     | e : _ = _ /\ _ |- _ =>  destruct e as [e ?]
     | e : ?x = ?y |- _ => subst x; pose (x := y); cbn
    end).

Ltac2 subst_all () := ltac1:(subst_all1).

Ltac2 intros_sigma () := repeat (intros; subst_all ()).

-/

/-- Core loop of `subst_all1`: repeatedly destructs an `∧`-hypothesis, or
substitutes an `Eq`-hypothesis, until neither applies. -/
partial def substAll1Core (goal : MVarId) : MetaM MVarId :=
  goal.withContext do
    let andDecl? := (← getLCtx).decls.toList.filterMap id |>.find? fun ldecl =>
      !ldecl.isImplementationDetail && ldecl.type.isAppOfArity ``And 2
    match andDecl? with
    | some ldecl =>
      let #[sg] ← goal.cases ldecl.fvarId
        | throwError "subst_all1: unexpected number of subgoals from `cases` on `∧`"
      substAll1Core sg.mvarId
    | none =>
      match ← substSomeVar? goal with
      | some goal' => substAll1Core goal'
      | none => return goal

/-- `subst_all1`, ported as a Lean tactic. -/
elab "subst_all1" : tactic =>
  liftMetaTactic1 fun goal => return some (← substAll1Core goal)

/-- `subst_all`, the Ltac2 wrapper around `subst_all1`. -/
macro "subst_all" : tactic => `(tactic| subst_all1)

/-- `intros_sigma`. Lean's bare `intro` (unlike Rocq's `intros`) fails once
there is nothing left to introduce, so `repeat` terminates correctly. -/
macro "intros_sigma" : tactic => `(tactic| repeat (intro; subst_all))

/-! ### `subst_all_in`


used both as an ordinary tactic, and — crucially — *as a term* via
`ltac:(subst_all_in B)` inside the statement of `UniqueCompo_rule`, to compute
a `Type` by substituting an equality hypothesis into `B`. -/

/-- Term-mode `subst_all_in B`, written `↷ B`: builds a synthetic goal with the
ambient local context and the expected type, runs `subst_all1` on it
(substituting whatever equality hypotheses are in scope, e.g. `eq_f_g : f = g`),
then elaborates `B` against the *substituted* goal and hands back the resulting
term. This is exactly what lets `B`'s components (which mention `f`-typed terms
like `fo`) type-check against `g`-typed terms like `go`: Lean's `subst` inserts
the necessary transport (`Eq.ndrec`) automatically, just as Rocq's `subst` does.

We declare it as a maximally-greedy unary prefix operator so that `↷` absorbs
the whole following type expression *without* parentheses — mirroring Rocq's
`ltac:(subst_all_in B)`, which likewise wraps the entire remainder. -/
elab:min "↷" b:term : term <= expectedType => do
  let mvar ← mkFreshExprSyntheticOpaqueMVar expectedType (tag := `subst_all_in)
  let mvarId' ← substAll1Core mvar.mvarId!
  let e ← mvarId'.withContext do
    Term.elabTermEnsuringType b (← mvarId'.getType)
  mvarId'.assign e
  instantiateMVars mvar

/-- Tactic-mode `subst_all_in B`, mirroring Rocq's `Tactic Notation`: runs
`subst_all1` then closes the goal with `exact B`. -/
elab "subst_all_in " b:term : tactic => do
  let goal ← getMainGoal
  let goal' ← substAll1Core goal
  goal'.withContext do
    let e ← Term.elabTermEnsuringType b (← goal'.getType)
    goal'.assign e
  replaceMainGoal []

/-! ### `destruct_sigma`

Lean's `obtain` pattern `⟨x1, .., xn⟩` already right-nests through `PSigma` in
a single step (what the Rocq `Ltac2 rec` recursion does one projection at a
time via fresh names + `destruct`/`clear`), so `destruct_sigma` is ported as
that `obtain` followed by `subst_all`.

Note: as with Rocq's own `list1(ident)`, the identifier list `x1 .. xn` has no
terminator, so when `destruct_sigma t as x1 .. xn` is *not* the last tactic in
a sequence it will greedily swallow the next tactic's leading identifier;
wrap it in parentheses (`(destruct_sigma t as x1 .. xn)`) in that case. -/
elab "destruct_sigma " t:term " as " xs:ident+ : tactic => do
  evalTactic (← `(tactic| obtain ⟨$xs,*⟩ := $t))
  evalTactic (← `(tactic| subst_all))

/-! ### The mathematical parameters (Rocq's `Parameter` ↦ Lean's `axiom`) -/

axiom Vertex : Type

axiom Edge : Vertex → Vertex → Type

axiom Triangle {a b c : Vertex} (x1 : Edge a b) (x2 : Edge b c) (o : Edge a c) : Type

axiom Up {a b c : Vertex} {x1 : Edge a b} {x2 : Edge b c} {o : Edge a c}
    (t : Triangle x1 x2 o) : Type

set_option linter.unusedVariables false in

axiom UniqueCompo_rule :
    ∀ (a b c : Vertex) (Edge_2 : Edge a b) (Edge_3 : Edge b c) (f g : Edge a c)
      (fo : Triangle Edge_2 Edge_3 f) (go : Triangle Edge_2 Edge_3 g)
      (u1 : Up fo) (u2 : Up go),
    Σ' eq_f_g : f = g, ↷ Σ' eq : fo = go, ↷ u1 = u2

/-! ### Sanity checks for the ported tactics (not part of the original file) -/

example (n m : Nat) (_h : n = m ∧ True) (p : Fin n) (_q : Fin m) : p.val = p.val := by
  subst_all1
  rfl

example (t : Σ' (x : Nat) (y : Nat), x = y) : True := by
  (destruct_sigma t as x y _h)
  exact True.intro

example (n m : Nat) (_h : n = m) : True := by
  intros_sigma
  exact True.intro

```
